US07902401B2
2-dibenzylamino-N-(3,4-difluoro-benzyl)-3-difluoromethoxy-propionamide (298 mg, 0.645 mmol) was stirred with 10% Pd(OH)2 (200 mg) in ethanol under H2 overnight. The reaction mixture was filtered and concentrated. The residue was mixed with triethylamine (254 mg, 2.5 mmol) in dichloromethane (2 mL) and treated with acetic anhydride (85 μL) at room temperature for 2 hours. The reaction mixture was diluted with dichloromethane and washed with water. The organic layer was concentrated with silica gel and purified by column chromatography, eluting with 30-100% ethyl acetate in hexanes. The product was triturated with diethyl ether to give 2-amino-N-(3,4-difluorobenzyl)-3-(difluoromethoxy)propanamide (125 mg, 60%) as a white solid, MP: 146° C. 1H NMR (300 MHz, CDCl3): δ(ppm) 6.92-7.16 (m, 4H), 6.47 (d, 1H), 6.25 (wt, 1H), 4.75 (m, 1H), 4.41 (m, 2H), 4.22 (dd, 1H), 4.02 (dd, 1H) and 2.05 (s, 3H).

reactant | 2-dibenzylamino-N-(3,4-difluoro-benzyl)-3-difluoromethoxy-propionamide | 0.645 mmol, 298 mg | C(C1=CC=CC=C1)N(C(C(=O)NCC1=CC(=C(C=C1)F)F)COC(F)F)CC1=CC=CC=C1 | C25H24F4N2O2
reactant | triethylamine | 2.5 mmol, 254 mg | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 85 μL | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethanol | C(C)O | C2H6O
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
catalyst | Pd(OH)2 | 200 mg | [OH-].[OH-].[Pd+2]
product | 2-amino-N-(3,4-difluorobenzyl)-3-(difluoromethoxy)propanamide | 125 mg, 60% | NC(C(=O)NCC1=CC(=C(C=C1)F)F)COC(F)F | C11H12F4N2O2
